US05866579
5,6,7,8-tetrahydro-3-nitro-6-oxa-quinoline.
A mixture of 1-methyl-3,5-dinitro-2-pyridone (0.8 g, 4 mmol), tetrahydro-4H-pyran-4-one (0.4 g, 4 mmol) and ammonia solution in methanol (2.0M, 40 mL) was refluxed for 4 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The soluble portion was flash chromatocraphed over silica gel (eluent: 90:10 v/v ethyl acetate-hexane) to give a yellow solid (O.376 g, 52% yield).

reactant | 1-methyl-3,5-dinitro-2-pyridone | 4 mmol, 0.8 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | tetrahydro-4H-pyran-4-one | 4 mmol, 0.4 g | O1CCC(CC1)=O | C5H8O2
reactant | ammonia | N | H3N
solvent | methanol | 2.0M, 40 mL | CO | CH4O
product | 5,6,7,8-tetrahydro-3-nitro-6-oxa-quinoline | 52% yield | [N+](=O)([O-])C=1C=NC=2CCOCC2C1 | C8H8N2O3
